US08026236B2
To a solution of 6-(4-(2-(isopropylamino)ethoxy)-3-(trifluoromethyl)phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile (0.05 mmol, 20 mg) in THF (1 mL) was added DIPEA (0.248 mmol, 44 μL) and acetyl chloride (0.149 mmol, 12 mg). The mixture was stirred at r.t. for 16 h and the product was then purified by HPLC to give 6-(4-(2-(N-acetyl-N-isopropylamino)ethoxy)-3-(trifluoromethyl)phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile. 1H NMR (CD3OD) δ: 8.38-8.44 (m, 4H), 7.35 (d, 1H), 4.15-4.34 (m, 3H), 4.02 (s, 3H), 3.68-3.85 (m, 2H), 2.19 (2xs, 3H), 1.25-1.29 (m, 6H). MS m/z 446 (M+H).

reactant | 6-(4-(2-(isopropylamino)ethoxy)-3-(trifluoromethyl)phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 0.05 mmol, 20 mg | C(C)(C)NCCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C)C(F)(F)F | C20H20F3N5O
reactant | DIPEA | 0.248 mmol, 44 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | acetyl chloride | 0.149 mmol, 12 mg | C(C)(=O)Cl | C2H3ClO
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 6-(4-(2-(N-acetyl-N-isopropylamino)ethoxy)-3-(trifluoromethyl)phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | C(C)(=O)N(C(C)C)CCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C)C(F)(F)F | C22H22F3N5O2
